US05424431
To 50 ml of acetone were added 2.46 g of o-anisidine and 3.75 g of benzoyl isothiocyanate, and the mixture is stirred under reflux for 2 hours and, then, allowed to stand overnight in a refrigerator at 5° C. The resulting crystals were collected by filtration, washed with cold acetone and dried under reduced pressure. The crystals were added to 50 ml of 30% methylamine-methanol and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated to dryness under reduced pressure, and the residue was washed with ethanol-ethyl acetate and dried under reduced pressure. The procedure provided 2.08 g of N-(o-methoxyphenyl)thiourea.

reactant | o-anisidine | 2.46 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | benzoyl isothiocyanate | 3.75 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(o-methoxyphenyl)thiourea | 2.08 g | COC1=C(C=CC=C1)NC(=S)N | C8H10N2OS
